US07148226B2
1-Cyclopentyl-5-(4-hydroxy-2,5-dimethyl-phenyl)-pent-4-yn-1-one
A solution of 1-cyclopentyl-pent-4-yn-1-one (0.33 g, 2.2 mmol) from example F(7), Step 2,4-iodo-2,5-dimethyl-phenol (0.54 g, 2.2 mmol), copper (I) iodide (33 mg, 0.18 mmol), trans-dichlorobis(triphenylphosphine)palladium (II) (63 mg, 0.09 mmol), and diisopropylamine (2.2 mL) in DMF (2.2 mL) was heated to 100° C. for 30 minutes. The reaction was cooled to room temperature and diluted with 10 mL of EtOAc. The resulting slurry was filtered, and the mother liquor was concentrated to a black oil. The oil was then purified by flash chromatography to give the desired product (112 mg, 19% yield).

reactant | 1-cyclopentyl-pent-4-yn-1-one | 2.2 mmol, 0.33 g | C1(CCCC1)C(CCC#C)=O | C10H14O
reactant | diisopropylamine | 2.2 mL | C(C)(C)NC(C)C | C6H15N
solvent | DMF | 2.2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
catalyst | copper (I) iodide | 0.18 mmol, 33 mg | [Cu]I
catalyst | trans-dichlorobis(triphenylphosphine)palladium | 0.09 mmol, 63 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-Cyclopentyl-5-(4-hydroxy-2,5-dimethyl-phenyl)-pent-4-yn-1-one | 112 mg, 19% yield | C1(CCCC1)C(CCC#CC1=C(C=C(C(=C1)C)O)C)=O | C18H22O2
